US05409943
(a) N-[3-(2-Chlorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea
A mixture of 2-amino-3-(2-chlorobenzyloxy)pyridine (1.81 g, 0.0077 mol), 4chlorophenyl isothiocyanate (1.59 g, 0.0094 mol) and toluene (10 ml) was refluxed for 2.5 hours, cooled and treated with diethyl ether to induce crystallisation of the product. Yield 2.54 g (90%), m.p. 177° 179 ° C.

reactant | 2-amino-3-(2-chlorobenzyloxy)pyridine | 0.0077 mol, 1.81 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)Cl | C12H11ClN2O
reactant | 4chlorophenyl isothiocyanate | 0.0094 mol, 1.59 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[3-(2-Chlorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | ClC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C=CC=C1 | C19H15Cl2N3OS
